US05807846
N-(2,4,6-Triisopropylbenzyl)phthalimide
A mixture of 2,4,6-triisopropylbenzyl bromide (5.00 g, 16.8 mmol), potassium phthalimide (3.71 g, 19.9 mmol), and dimethylformamide were heated for 3 hours at 70° C. The reaction mixture was allowed to stand overnight at room temperature and was then heated at 90° C. for 1 hour. The solvent was removed on the rotary evaporator, ethyl acetate (250 mL) was added, the organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to a white solid. Hexanes (50 mL) and ethyl acetate (5 mL) was added and the solid collected by filtration, 4.18 g (68%). An analytical sample was obtained by silica gel filtration using 9:1, hexanes/ethyl acetate as eluant. Analysis calculated for (C24H29NO2).

reactant | 2,4,6-triisopropylbenzyl bromide | 16.8 mmol, 5.00 g | C(C)(C)C1=C(CBr)C(=CC(=C1)C(C)C)C(C)C | C16H25Br
reactant | potassium phthalimide | 19.9 mmol, 3.71 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2,4,6-Triisopropylbenzyl)phthalimide | C(C)(C)C1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C(=CC(=C1)C(C)C)C(C)C | C24H29NO2
